US05334748
A mixture of methyl 2-(3-nitrophenoxy)phenylacetate (15 g), methanol (100 ml), glacial acetic acid (100 ml), and iron powder (15.0 g) was gently heated with stirring to reflux. After 30 minutes the mixture was cooled and the excess iron powder was filtered off. This filtrate was poured into water (700 ml) and extracted with ether (2×200 ml). The ether extracts were neutralized by stirring with aqueous sodium bicarbonate then dried, filtered and concentrated to give methyl 2-(3-aminophenoxy)phenylacetate (13.0 g, 97% yield) as a pale yellow oil.

reactant | methyl 2-(3-nitrophenoxy)phenylacetate | 15 g | [N+](=O)([O-])C=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C15H13NO5
reactant | methanol | 100 ml | CO | CH4O
catalyst | iron | 15.0 g | [Fe] | Fe
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | methyl 2-(3-aminophenoxy)phenylacetate | 13.0 g, 97% yield | NC=1C=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC1 | C15H15NO3
